Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
Bright red blood per rectum
 
Major Surgical or Invasive Procedure:
colonoscopy

 
History of Present Illness:
Ms. ___ is a ___ female with the past
medical history of diverticulitis twice this year, s/p
colonoscopy about a week ago with "large" polyp removed, says
this morning after having a dark bowel movement and when using
toilet paper she had another gush of red blood of significant
amounts but can't estimate how much exactly. Not sure if there
was any black stools before that. Also she developed left lower
quadrant abdominal pain on ___, mild, intermittent which 
she
though is due to a pulled muscle, worsens with activity and
improves spontaneously within minutes. Denies nausea, vomiting,
weakness, chest pain, shortness of breath, fevers, or chills. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

ALLERGIES/ADR: Aspirin, fragrances 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
Diverticulitis 
Urticaria  
 
Social History:
SOCIAL HISTORY:
Quit smoking ___ years ago
No alcohol.
Employed

 
Physical Exam:
VITALS: ___ 1501 Temp: 98.1 PO BP: 132/79 HR: 75 RR: 20 O2
sat: 99% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: dry skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, 
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 07:42AM BLOOD WBC-9.6 RBC-4.02 Hgb-11.7 Hct-35.1 MCV-87 
MCH-29.1 MCHC-33.3 RDW-13.1 RDWSD-42.0 Plt ___
___ 06:50AM BLOOD WBC-7.8 RBC-3.71* Hgb-10.9* Hct-32.6* 
MCV-88 MCH-29.4 MCHC-33.4 RDW-13.3 RDWSD-43.0 Plt ___
___ 07:42AM BLOOD Glucose-120* UreaN-11 Creat-0.7 Na-139 
K-4.8 Cl-104 HCO3-21* AnGap-14
___ 06:50AM BLOOD Glucose-87 UreaN-7 Creat-0.7 Na-144 K-4.2 
Cl-114* HCO3-17* AnGap-13
___ 12:04PM BLOOD Lactate-2.0

Colonoscopy
Normal mucosa in entire colon
Evidence of diverticulosis
Prior EMR site visualized, no evidence of bleeding, two 
endoclips placed
 
Brief Hospital Course:
Patient is a ___ y/o woman admitted with BRBPR after polyp 
removed during colonoscopy.  She was seen by GI, had re-prepped 
for colonoscopy.  She had some bleeding during the prep but none 
afterwards.  Repeat colonoscopy showed no evidence of bleeding, 
and two additional endoclips placed.  She had a self-limited 
post polypectomy bleed.  She was discharged home after 
tolerating a regular diet.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. QUEtiapine Fumarate 12.5 mg PO QHS 

 
Discharge Medications:
1.  QUEtiapine Fumarate 12.5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Post Polypectomy bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after developing bleeding after a polyp was 
removed during colonoscopy.  You had a repeat colonoscopy that 
showed no active bleeding.  Two extra clips were also placed.  
You are stable for discharge.  Please avoid medicines such as 
aspirin and ibuprofen for at least a week.  
 
Followup Instructions:
___